US07279469B2
3-(5-Amino-1-pyridin-2-yl-1H-[1,2,4]triazol-3-ylamino)-4-methoxy-benzoic acid.
A suspension of 3-(5-Amino-1-pyridin-2-yl-1H-[1,2,4]triazol-3-ylamino)-4-methoxy-benzoic acid methyl ester (1.31 g, 3.85 mmol) in a mixed solvent of THF (40 mL), MeOH (5 mL) and water (10 mL) was treated with 2N NaOH (8 mL) at 50° C. for 1 h. The reaction mixture was cooled to room temperature, neutralized with 6N HCl. Precipitate came out and collected by filtration to give the title compound (1.20 g) in 95% yield. Small amount was further purified by HPLC. FIA-MS: m/e=327.1 (M+H), 325.0 (M−H). Rt=3.09 min (Method A). 1H-NMR (500 MHz, DMSO(d6)): 12.53 (s, 1H), 8.81 (d, 1H), 8.43 (dd, 1H), 8.01 (td, 1H), 7.78 (s, 2H), 7.65 (d, 1H), 7.56 (s, 1H), 7.353 (dd, 1H), 7.23 (dd, 1H), 7.07 (dd, 1H), 3.92 (s, 3H).

reactant | 3-(5-Amino-1-pyridin-2-yl-1H-[1,2,4]triazol-3-ylamino)-4-methoxy-benzoic acid methyl ester | 3.85 mmol, 1.31 g | COC(C1=CC(=C(C=C1)OC)NC1=NN(C(=N1)N)C1=NC=CC=C1)=O | C16H16N6O3
reactant | THF | 40 mL | C1CCOC1 | C4H8O
reactant | NaOH | 2N, 8 mL | [OH-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | water | 10 mL | O | H2O
solvent | MeOH | 5 mL | CO | CH4O
product | 3-(5-Amino-1-pyridin-2-yl-1H-[1,2,4]triazol-3-ylamino)-4-methoxy-benzoic acid | 1.20 g, 95% yield | NC1=NC(=NN1C1=NC=CC=C1)NC=1C=C(C(=O)O)C=CC1OC | C15H14N6O3
